US06608077B2
b) N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(1,3-dimethylpyrazol-5-yl)urea
Under Ar, a solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (137 mg, 0.61 mmol) and 5-(azidocarbonyl)-1,3-dimethylpyrazole (203 mg, 1.23 mmol) in 2 mL of N,N-dimethyl-formamide was stirred at room temperature for 3 days. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (17 mg, 7.7%). LC-MS (m/z) 360.2 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.61 mmol, 137 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 5-(azidocarbonyl)-1,3-dimethylpyrazole | 1.23 mmol, 203 mg | N(=[N+]=[N-])C(=O)C1=CC(=NN1C)C | C6H7N5O
reactant | N,N-dimethyl-formamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-(1,3-dimethylpyrazol-5-yl)urea | 17 mg, 7.7% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NC1=CC(=NN1C)C)O | C12H14ClN5O4S
